US05317016
To a solution of (2S,4R)-1-allyloxycarbonyl-4-methanesulfonyloxypyrrolidine-2-methanol (13.4 g: 50 mmole) in dichloromethane (50 ml), p-chlorobenzenesulfonyl chloride (12.66 g: 60 mmole) is added in a nitrogen atmosphere at room temperature and a solution of triethylamine (8.69 ml: 62.5 mmole) in dichloromethane (10 ml) is further added dropwise. The mixture is stirred at room temperature overnight. The reaction mixture is successively washed with aqueous sodium hydrogen carbonate and saturated brine, dried over magnesium sulfate, concentrated in vacuo, and purified by silica gel chromatography (toluene-ethyl acetate) to give crude (2S,4R)-1-allyloxycarbonyl-2-p-chlorobenzenesulfonyloxy methyl-4-methanesulfonyloxypyrrolidine (23.73 g) as oil. Yield: 105%. NMR δ(CDCl3) ppm: 2.2 to 2.6(m, 2H), 3.04(s, 3H), 3.58(dd, J=5.0 Hz, J=11.4 Hz, 1H), 3.8 to 4.0(m, 1H), 4.1 to 4.3(m, 3H), 4.5(m, 3H), 5.1 to 5.4(m, 3H), 5.7 to 6.0(m, 1H).

reactant | (2S,4R)-1-allyloxycarbonyl-4-methanesulfonyloxypyrrolidine-2-methanol | 50 mmole, 13.4 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CO | C10H17NO6S
reactant | p-chlorobenzenesulfonyl chloride | 60 mmole, 12.66 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | triethylamine | 62.5 mmole, 8.69 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (2S,4R)-1-allyloxycarbonyl-2-p-chlorobenzenesulfonyloxy methyl-4-methanesulfonyloxypyrrolidine | 23.73 g, Yield: 105% | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)COS(=O)(=O)C1=CC=C(C=C1)Cl | C16H20ClNO8S2
